US04238486
Sodium hydride (50% in mineral oil, 1.1 gms, 0.045 m) is added in portions to a stirred solution of trans 4-(p-tolylsulphonyl)-4,6,6a,8,9,10a hexahydro-7H-indolo-[3,4 gh]-[1,4] benzoxazin-8-one (7.0 gm, 0.018 m) in DMF (14 ml). The resulting mixture is stirred at room temperature for 1/2 hour. Methyl iodide (5.0 gm, 0.035 m) is added dropwise to the reaction mixture. After stirring an additional 1/2 hour, the reaction solution is poured into water, and the solid is removed by filtration. The tan solid is chromatographed (silica, chloroform) to give 3 gms of trans-4,6,6a,8,9,10a-Hexahydro-7-methyl-7H-indolo-[3,4 gh]-[1.4]-benzoxazine.

reactant | Sodium hydride | 1.1 gms | [H-].[Na+]
reactant | trans 4-(p-tolylsulphonyl)-4,6,6a,8,9,10a hexahydro-7H-indolo-[3,4 gh]-[1,4] benzoxazin-8-one | 7.0 gm | C1(=CC=C(C=C1)S(=O)(=O)N1C=C2C3=C([C@@H]4[C@H](NC(CO4)=O)C2)C=CC=C13)C | C20H18N2O4S
reactant | Methyl iodide | 5.0 gm | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
product | trans-4,6,6a,8,9,10a-Hexahydro-7-methyl-7H-indolo-[3,4 gh]-[1.4]-benzoxazine | 3 gms | CN1CCO[C@H]2[C@H]1CC=1C3=C2C=CC=C3NC1 | C14H16N2O
